US06057439
20-Methylpregna-4,20-diene-3,6-dione, 17
Jones reagent (2.67 M, 1.83 ml, 4.89 mmol) was added to a solution of 20-methylpregna-5,20-dien-3β-ol (400.0 mg, 1.272 mmol) in 45 ml of acetone and the reaction was stirred 20 min. After quenching with 2-propanol (0.91 ml) the mixture was poured into 85 ml of water and extracted three times with 40 ml portions of ethyl acetate. The combined organic extracts were washed with 40 ml of saturated sodium bicarbonate+40 ml of brine, dried over magnesium sulfate, and filtered through diatomaceous earth. The residue was washed with 25 ml of ethyl acetate and the combined filtrates were concentrated under reduced pressure. Recrystallization of the solid residue from aqueous ethanol gave yellow crystals (235.0 mg, 0.7298 mmol, 57%), m.p. 148-150° C. TLC (20% ethyl acetate/hexanes on silica gel) showed a major product at Rf 0.24 with a minor impurity at the origin.

reactant | Jones reagent | 4.89 mmol, 2.67 M, 1.83 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 20-methylpregna-5,20-dien-3β-ol | 1.272 mmol, 400.0 mg | CC(=C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O | C22H34O
solvent | acetone | 45 ml | CC(=O)C | C3H6O
product | 20-Methylpregna-4,20-diene-3,6-dione | 0.7298 mmol, 235.0 mg, 57% | CC(=C)[C@H]1CC[C@H]2[C@@H]3CC(C4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)=O | C22H30O2
